### PR TITLE
[Merged by Bors] - feat(RingTheory): classification of etale algebras over fields

### PR DESCRIPTION
**Pull request by erdOne**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Etale/Field.lean [hunk 1]
```diff
@@ -148,4 +153,61 @@ theorem iff_isSeparable [EssFiniteType K L] :
...
+      ∃ (I : Type u) (_ : Finite I) (Ai : I → Type u) (_ : ∀ i, Field (Ai i))
+        (_ : ∀ i, Algebra K (Ai i)) (_ : A ≃ₐ[K] Π i, Ai i),
+        ∀ i, Algebra.IsSeparable K (Ai i) := by
+  classical
+  constructor
+  · intro H
+    have := FormallyUnramified.finite_of_free K A
+    have := FormallyUnramified.isReduced_of_field K A
+    have : IsArtinianRing A := isArtinian_of_tower K inferInstance
+    letI : Fintype {I : Ideal A | I.IsMaximal} := (nonempty_fintype _).some
```
Comment (alreadydone) [inline Mathlib/RingTheory/Etale/Field.lean:173]: The imports of `MaximalSpectrum` is pretty light now, and you can feel free to import it. I need to change the file Artinian to use it though ...

File: Mathlib/RingTheory/Etale/Field.lean [hunk 2]
```diff
@@ -17,6 +17,11 @@ Let `K` be a field, `A` be a `K`-algebra and `L` be a field extension of `K`.
     If `L` is separable over `K`, then `L` is formally etale over `K`.
 - `Algebra.FormallyEtale.iff_isSeparable`:
     If `L` is (essentially) of finite type over `K`, then `L/K` is etale iff `L/K` is separable.
+- `Algebra.FormallyEtale.iff_exists_algEquiv_prod`:
+    If `A` is (essentially) of finite type over `K`,
+    then `A/K` is etale iff `A` is a finite product of separable field extensions.
```
Comment (alreadydone) [inline Mathlib/RingTheory/Etale/Field.lean:22]: I think in the text we should include the accent and write "étale", as is the case with people's names etc.

File: Mathlib/RingTheory/Etale/Field.lean [hunk 3]
```diff
@@ -148,4 +153,61 @@ theorem iff_isSeparable [EssFiniteType K L] :
...
+  IsArtinianRing.subtype_isMaximal_finite IsArtinianRing.fieldOfSubtypeIsMaximal in
+/--
+If `A` is an essentially of finite type algebra over a field `K`, then `A` is formally etale
+over `K` if and only if `A` is a finite product of separable field extensions.
+-/
+theorem iff_exists_algEquiv_prod [EssFiniteType K A] :
+    FormallyEtale K A ↔
+      ∃ (I : Type u) (_ : Finite I) (Ai : I → Type u) (_ : ∀ i, Field (Ai i))
+        (_ : ∀ i, Algebra K (Ai i)) (_ : A ≃ₐ[K] Π i, Ai i),
+        ∀ i, Algebra.IsSeparable K (Ai i) := by
```
Comment (alreadydone) [inline Mathlib/RingTheory/Etale/Field.lean:166]: For this type of theorems, I think it might be better to separate the forward and backward directions. For the forward direction you can use `Fin n` instead of an arbitrary indexing type. For the backward direction you can take `I` and `Ai` in any universe, and the conclusion could simply say `FormallyEtale K (Π i, Ai i)` (this could be an instance, but a more generaly instance would assume each `Ai i` is formally etale); you can add a separate lemma saying that `FormallyEtale K` is invariant under `K`-AlgHoms. This would ensure both directions are maximally general, but I understand it may need additional infrastructure, like `congrLeft` constructions (on the indexing type) for various kinds of algebraic isomorphisms (AlgHom here).

File: Mathlib/RingTheory/Etale/Field.lean (hunk 1 above)
Comment (alreadydone) [reply Mathlib/RingTheory/Etale/Field.lean:173]: I take it back; it's still heavy enough that you can't import it freely without acquiring the large-import label ...

File: Mathlib/RingTheory/Etale/Field.lean (hunk 3 above)
Comment (erdOne) [reply Mathlib/RingTheory/Etale/Field.lean:166]: I think we won't be using the backwards direction of this lemma much as there is already `Algebra.FormallyEtale.pi_iff`. As for the forward direction, I'm not sure I see the point of indexing with `Fin n` instead of an arbitrary finite type.

File: Mathlib/RingTheory/Etale/Field.lean (hunk 2 above)
Comment (erdOne) [reply Mathlib/RingTheory/Etale/Field.lean:22]: I think we do anglicize people's name in docstrings e.g. `Kaehler` instead of `Kähler` or `Nakayama` instead of `中山`

File: Mathlib/RingTheory/Etale/Field.lean (hunk 3 above)
Comment (alreadydone) [reply Mathlib/RingTheory/Etale/Field.lean:166]: Okay, I won't insist that you change this.

File: Mathlib/RingTheory/Etale/Field.lean (hunk 2 above)
Comment (alreadydone) [reply Mathlib/RingTheory/Etale/Field.lean:22]: "étale" is [pretty common](https://github.com/search?q=repo%3Aleanprover-community%2Fmathlib4+%C3%A9tale&type=code) in mathlib, and I think usages of "Kaehler" should be corrected. Mathlib uses Unicode freely (declaration names being the only exception), and I don't see why this doesn't apply to people's names in docstrings. I think the purpose of using Unicode is to make things look like they appear in mainstream mathematical texts. You will find "étale" in every book, Wikipedia, and Stacks Project, but it's not common to find "中山" in English text. This should be the general criterion to determine what spelling we use in mathlib.

Comment (erdOne) [reply Mathlib/RingTheory/Etale/Field.lean]: My reference (Iversen) uses `etale` instead of `étale` but either way is fine for me. Changed.

File: Mathlib/RingTheory/Etale/Pi.lean [hunk 4]
```diff
@@ -0,0 +1,33 @@
...
+import Mathlib.RingTheory.Etale.Basic
+
+/-!
+
+# Formal-etaleness of finite products of rings
+
+## Main result
+
+- `Algebra.FormallyEtale.pi_iff`: If `I` is finite, `Π i : I, A i` is `R`-formally-etale
+  if and only if each `A i` is `R`-formally-etale.
```
Comment (chrisflav) [inline Mathlib/RingTheory/Etale/Pi.lean:17]: Now that Junyan already insisted :)
```suggestion
# Formal-étaleness of finite products of rings

## Main result

- `Algebra.FormallyEtale.pi_iff`: If `I` is finite, `Π i : I, A i` is `R`-formally-étale
  if and only if each `A i` is `R`-formally-étale.
```

File: Mathlib/RingTheory/Etale/Field.lean [hunk 5]
```diff
@@ -14,9 +14,14 @@ import Mathlib.RingTheory.Unramified.Field
...
-    If `L` is separable over `K`, then `L` is formally etale over `K`.
+    If `L` is separable over `K`, then `L` is formally étale over `K`.
 - `Algebra.FormallyEtale.iff_isSeparable`:
-    If `L` is (essentially) of finite type over `K`, then `L/K` is etale iff `L/K` is separable.
+    If `L` is (essentially) of finite type over `K`, then `L/K` is étale iff `L/K` is separable.
+- `Algebra.FormallyEtale.iff_exists_algEquiv_prod`:
+    If `A` is (essentially) of finite type over `K`,
+    then `A/K` is étale iff `A` is a finite product of separable field extensions.
+- `Algebra.Etale.iff_exists_algEquiv_prod`:
+    `A/K` is etale iff `A` is a finite product of finite separable field extensions.
```
Comment (chrisflav) [inline Mathlib/RingTheory/Etale/Field.lean:24]:
```suggestion
    `A/K` is étale iff `A` is a finite product of finite separable field extensions.
```

**Review by chrisflav — APPROVED** [review]
Thanks!

maintainer delegate

File: Mathlib/RingTheory/Etale/Pi.lean [hunk 6]
```diff
@@ -0,0 +1,33 @@
...
+
+universe u v
+
+namespace Algebra.FormallyEtale
+
+variable {R : Type (max u v)} {I : Type u} (A : I → Type (max u v))
+variable [CommRing R] [∀ i, CommRing (A i)] [∀ i, Algebra R (A i)]
+
+theorem pi_iff [Finite I] :
+    FormallyEtale R (Π i, A i) ↔ ∀ i, FormallyEtale R (A i) := by
```
Comment (jcommelin) [inline Mathlib/RingTheory/Etale/Pi.lean:29]: Is the backwards direction also an instance already?

**Review by jcommelin — COMMENTED** [review]
Thanks!

bors d+

**Comment by erdOne** [comment]
Thanks

bors merge
